US08304419B2
Step B: 2-amino-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-4-carboxamide
EDC (0.035 g, 0.183 mmol) and HOBT (0.025 g, 0.183 mmol) were added to a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.048 g, 0.153 mmol) and 2-(bis{[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-imidazole-4-carboxylic acid (0.050 g, 0.153 mmol) in DMF (2 mL). The mixture was stirred at RT overnight. Saturated aqueous sodium bicarbonate was added and the reaction mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated to give crude bis(1,1-dimethylethyl)(4-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-imidazol-2-yl)imidodicarbonate as an oil. Trifluoroacetic acid (0.3 mL, 3.89 mmol) was added to a solution of bis(1,1-dimethylethyl)(4-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-imidazol-2-yl)imidodicarbonate (0.066 g, 0.106 mmol) in dichloromethane (2 mL). The mixture was stirred at RT overnight, concentrated and purified by reverse phase HPLC (acetonitrile:water with 0.1% formic acid) to give the title compound (0.017 g, 27%). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.09-8.18 (m, 2H), 7.81 (s, 1H), 7.51 (s, 1H), 7.44-7.50 (m, 2H), 7.30 (t, 1H), 7.10 (s, 1H), 5.45 (br. s., 2H), 4.44 (d, 2H). MS m/z 420 (M+1).

reactant | Trifluoroacetic acid | 3.89 mmol, 0.3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | bis(1,1-dimethylethyl)(4-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-imidazol-2-yl)imidodicarbonate | 0.106 mmol, 0.066 g | CC(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C=1NC=C(N1)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C28H28Cl2FN5O6
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-amino-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-4-carboxamide | 0.017 g, 27% | NC=1NC=C(N1)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C18H12Cl2FN5O2
